US07723378B2
A solution of 3-(2-ethyl-4-hydroxymethyl-6-methyl-phenyl)-propionic acid (2.8 g, 12.6 mmol) in acetic acid (50 mL) is treated with MnO2 (3.9 g, 45.4 mmol) and the resulting mixture is stirred at 80° C. for 4 h. The mixture is filtered and the filtrate is concentrated. The crude product is purified by CC on silica gel eluting with DCM to give 3-(2-ethyl-4-formyl-6-methyl-phenyl)-propionic acid (1.76 g) as a beige solid; LC-MS: tR=0.86 min.

reactant | 3-(2-ethyl-4-hydroxymethyl-6-methyl-phenyl)-propionic acid | 12.6 mmol, 2.8 g | C(C)C1=C(C(=CC(=C1)CO)C)CCC(=O)O | C13H18O3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | MnO2 | 45.4 mmol, 3.9 g | O=[Mn]=O
product | 3-(2-ethyl-4-formyl-6-methyl-phenyl)-propionic acid | 1.76 g | C(C)C1=C(C(=CC(=C1)C=O)C)CCC(=O)O | C13H16O3
